US05719182
f) 1RS,2RS,3RS)-2-Cyanomethyl-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane
1RS,2RS,3RS)-2-Cyanomethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane (300 mg, 0.60 mmol) was dissolved in EtOH (4 ml) with concentrated HCl (0.1 ml) then refluxed for 1 h. the mixture was cooled then partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O, saturated NaHCO3 solution, H2O, then brine, dried (Na2SO4) and solvent removed in vacuo to afford the title compound as a solid foam (250 mg, 91%).

reactant | 2-Cyanomethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 0.60 mmol, 300 mg | C(#N)CC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCOC)OCCC)C1=CC2=C(C=C1)OCO2 | C30H31NO6
solvent | EtOH | 4 ml | CCO | C2H6O
solvent | HCl | 0.1 ml | Cl | ClH
product | 2-Cyanomethyl-3-(2-hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | C(#N)CC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)O)OCCC)C1=CC2=C(C=C1)OCO2 | C28H27NO5
